*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J150JX01
* Property : C = 1.50e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J150JX01 Port1 Port2
C01 Port1 N01 1.50e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 1.33e-10
R03 N02 N03 2.50e-01
C04 N03 N04 3.57e-10
R04 N03 N04 3.87e+01
C05 N04 N05 3.12e-11
L05 N04 N05 3.29e-11
R05 N04 N05 8.92e+00
C06 N05 N06 8.86e-12
L06 N05 N06 8.77e-11
R06 N05 N06 1.51e+01
C07 N06 N07 2.89e-12
L07 N06 N07 2.14e-10
R07 N06 N07 7.44e+01
C08 N07 Port2 4.24e-12
L08 N07 Port2 9.57e-11
R08 N07 Port2 3.75e+01
.ENDS GCM21A5C2J150JX01
